US07951810B2
Step a: ((3aR,4R,6R,6aR)-6-{6-[(anilinocarbonyl)amino]-9H-purin-9-yl}-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl acetate
To a solution of [(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate (0.200 g, 0.572 mmol) in AcCN (3 mL) was added phenylisocyanate (0.068 g, 0.572 mmol) dropwise. The white mixture was stirred for two hours at ambient temperature, overnight at 50° C. and then concentrated to give the title compound (0.268 g, 100%).

reactant | [(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate | 0.572 mmol, 0.200 g | C(C)(=O)OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)N | C15H19N5O5
reactant | phenylisocyanate | 0.572 mmol, 0.068 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | AcCN | 3 mL | C(=O)(C)C#N | C3H3NO
product | ((3aR,4R,6R,6aR)-6-{6-[(anilinocarbonyl)amino]-9H-purin-9-yl}-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl acetate | 0.268 g, 100% | C(C)(=O)OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)NC(=O)NC2=CC=CC=C2 | C22H24N6O6
